US20010047031A1
(RS)-6-[1-(4-Phenyl-butyl)-pyrrolidine-3-sulfonyl]-3H-benzooxazol-2-one
The title compound, MS: m/e=401.4 (M+H+) was prepared from (RS)-6-(pyrrolidine-3-sulfonyl)-3H-benzooxazol-2-one trifluoroacetic acid and 4-phenyl-butyraldehyde.

reactant | (RS)-6-(pyrrolidine-3-sulfonyl)-3H-benzooxazol-2-one trifluoroacetic acid | FC(C(=O)O)(F)F.N1CC(CC1)S(=O)(=O)C1=CC2=C(NC(O2)=O)C=C1
reactant | 4-phenyl-butyraldehyde | C1(=CC=CC=C1)CCCC=O | C10H12O
product | (RS)-6-[1-(4-Phenyl-butyl)-pyrrolidine-3-sulfonyl]-3H-benzooxazol-2-one | C1(=CC=CC=C1)CCCCN1CC(CC1)S(=O)(=O)C1=CC2=C(NC(O2)=O)C=C1 | C21H24N2O4S
